US04416890
To a stirred solution of 6-hydroxy-2-benzothiazolesulfonamide (6.9 g., 0.03 mole), triethylamine (4.2 ml., 0.03 mole) and 4-dimethylaminopyridine (100 mg.) in dimethylformamide (30 ml.) is added lauroyl chloride (7 ml.) during a 1/2 hour period. The reaction mixture is stirred for 2 hours at room temperature, poured into ice water and hydrochloric acid, extracted into ether, washed with water, ammonium hydroxide (3 ml. diluted with water) dilute hydrochloric acid and dried over magnesium sulfate. The ether is evaporated at reduced pressure to give 2.2 g of 2-sulfamoyl-6-benzothiazolyl dodecanoate which melts at 112°-114° C. after recrystallization from butyl chloride.

reactant | 6-hydroxy-2-benzothiazolesulfonamide | 0.03 mole, 6.9 g | OC1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H6N2O3S2
reactant | triethylamine | 0.03 mole, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | lauroyl chloride | 7 ml | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-sulfamoyl-6-benzothiazolyl dodecanoate | 2.2 g | C(CCCCCCCCCCC)(=O)OC1=CC2=C(N=C(S2)S(N)(=O)=O)C=C1 | C19H28N2O4S2
